US08071592B2
(a) 7-Bromopyrido[2,3-b]pyrazin-2(1H)-one
A solution of 5-bromo-2,3-pyridinediamine (465 mg, 2.473 mmol) and glyoxylic acid monohydrate (284 mg, 3.09 mmol) in water (5 ml) was stirred at rt for 3 h and the resultant precipitate was filtered and washed with water (50 ml), MeOH (20 ml) and finally diethyl ether (20 ml) before drying in vacuo gave the desired product as a light brown solid (368 mg, 66%).

reactant | 5-bromo-2,3-pyridinediamine | 2.473 mmol, 465 mg | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | glyoxylic acid monohydrate | 3.09 mmol, 284 mg | O.C(C=O)(=O)O
solvent | water | 5 ml | O | H2O
product | 7-Bromopyrido[2,3-b]pyrazin-2(1H)-one | 368 mg, 66% | BrC1=CC2=C(N=CC(N2)=O)N=C1 | C7H4BrN3O
